US09388161B2
XPhos Precatalyst 2nd Generation (6.0 mg, 0.008 mmol) was added to a nitrogen purged solution of (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (30.8 mg, 0.077 mmol), 1-benzyl-4-(4-bromo-5-fluoro-1H-pyrazol-1-yl)piperidine (26.0 mg, 0.077 mmol), and potassium phosphate (81 mg, 0.384 mmol) in 1,4-dioxane (1.00 mL) and water (0.20 mL), and the reaction mixture was heated at 100° C. overnight. The crude reaction mixture was purified directly via column chromatography on silica gel (Biotage 25 g column, gradient elution with 10-20% ethyl acetate in hexanes) to afford methyl (S)-6-(1-(1-benzylpiperidin-4-yl)-5-fluoro-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (16 mg, 39%) as a white solid. MS (ESI, pos. ion) m/z 533 [M+H]+.

reactant | (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | 0.077 mmol, 30.8 mg | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1B1OC(C(O1)(C)C)(C)C)C(=O)OC)C | C22H32BNO5
reactant | 1-benzyl-4-(4-bromo-5-fluoro-1H-pyrazol-1-yl)piperidine | 0.077 mmol, 26.0 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1N=CC(=C1F)Br | C15H17BrFN3
reactant | potassium phosphate | 0.384 mmol, 81 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
solvent | 1,4-dioxane | 1.00 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.20 mL | O | H2O
product | methyl (S)-6-(1-(1-benzylpiperidin-4-yl)-5-fluoro-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 16 mg, 39% | C(C1=CC=CC=C1)N1CCC(CC1)N1N=CC(=C1F)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C31H37FN4O3
